US07429565B2
5-Ethyl-6-(3-hydroxymethyl-pent-2-enyl)-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one
2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal (50.3 mg, 0.129 mmol) was dissolved in MeOH (3 mL). A solution of CeCl3 (31.9 mg, 0.129 mmol) in MeOH/water (9/1, 0.66 mL) was added and the solution was cooled to 0° C. A solution of lithium borohydride in THF (2M, 0.065 mL) was added dropwise. After 10 minutes, the reaction was quenched with 1N HCl (0.5 mL). The methanol was removed in vacuo and the crude material was partitioned between DCM and water. The aqueous layer was extracted with DCM and the combined organic layers were washed with sodium bicarbonate solution and were dried over sodium sulfate. Filtration and evaporation of solvents in vacuo yielded a crude oil, which was purified by silica gel chromatography to provide 35.4 mg (70%) of the desired product. 1H NMR (300 MHz, CDCl3): δ=0.04 (s, 9H), 1.10-1.19 (m, 6H), 1.26 (m, 2H), 2.19 (s, 3H), 2.32 (q, J=7.5 Hz, 2H), 2.72 (q, J=7.5 Hz, 2H), 3.54 (d, J=6.6 Hz, 2H), 4.05 (s, 2H), 4.26 (m, 2H), 5.14 (s, 2H), 5.27 (m, 1H) ppm.

reactant | 2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal | 0.129 mmol, 50.3 mg | C(C)C(C=O)=CCC=1C(=C2C(OCC2=C(C1CC)C)=O)OCC[Si](C)(C)C | C22H32O4Si
reactant | lithium borohydride | [BH4-].[Li+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | MeOH water | 0.66 mL | CO.O
solvent | THF | 2M, 0.065 mL | C1CCOC1 | C4H8O
product | 5-Ethyl-6-(3-hydroxymethyl-pent-2-enyl)-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 35.4 mg, 70% | C(C)C=1C(=C2COC(C2=C(C1CC=C(CC)CO)OCC[Si](C)(C)C)=O)C | C22H34O4Si
